US07645771B2
To a solution of methyl 3-amino-benzoate (2.0 g, 13.2 mmol) and pyridine (2.30 g, 29.1 mmol) in dichloromethane (50 ml) at −10° C. under a nitrogen atmosphere was slowly added methanesulfonyl chloride (2.25 ml, 29.1 mmol) by syringe. After 2 hours, water was added and the volatiles were removed by spin evaporation in vacuo. A solution of the residue and sodium hydroxide (3.175 g, 79.4 mmol) in methanol (50 ml) and water (50 ml) was stirred for 18 hours. The residue after removal of the volatiles by spin evaporation in vacuo was dissolved in 1 N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and the volatiles were removed by spin evaporation in vacuo to give 3-[(methylsulfonyl)amino]benzoic acid as an oil. (1.32 g, 46%). 1H-NMR (400 MHz, DMSO-d6): δ 7.83-7.78 (m, 2H), 7.55-7.50 (m, 1H), 7.50-7.46 (m, 1H), 3×80 (s, 3H). ES-LCMS m/z 216 (M+H).

reactant | methyl 3-amino-benzoate | 13.2 mmol, 2.0 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | pyridine | 29.1 mmol, 2.30 g | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 29.1 mmol, 2.25 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydroxide | 79.4 mmol, 3.175 g | [OH-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 3-[(methylsulfonyl)amino]benzoic acid | CS(=O)(=O)NC=1C=C(C(=O)O)C=CC1 | C8H9NO4S
